US06924374B2
1-(3-Fluoro-5-trifluoromethyl-phenyl)-4-propyl-piperazine
Beginning with 1-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine and 1-bromopropane, the title compound was recovered by the procedure described in Example 2. m.p. 242° C. (HCl); MS m/z (rel. intensity, 70 eV) 290 (M+, 34), 261 (bp), 218 (22), 190 (20), 70 (37).

reactant | 1-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine | FC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12F4N2
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 1-(3-Fluoro-5-trifluoromethyl-phenyl)-4-propyl-piperazine | FC=1C=C(C=C(C1)C(F)(F)F)N1CCN(CC1)CCC | C14H18F4N2
